US05264438
To a stirred solution of 4-[4-(4-chlorophenyl)-1,2,3,6-tetrahydropyridin-1-yl]butyronitrile (13.0 g) in dry tetrahydrofuran (130 ml) was added 1M solution of lithium aluminum hydride in tetrahydrofuran (60 ml), and the mixture was stirred for 1 hour. After saturated aqueous ammonium chloride solution (10 ml) was added with stirring, the organic layer was separated by decantation, dried over magnesium sulfate and evaporated to dryness to give an oil of 4-[4-[4-chlorophenyl)-1,2,3,6-tetrahydropyridin-1-yl]butylamine (7.18 g).

reactant | 4-[4-(4-chlorophenyl)-1,2,3,6-tetrahydropyridin-1-yl]butyronitrile | 13.0 g | ClC1=CC=C(C=C1)C=1CCN(CC1)CCCC#N | C15H17ClN2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 130 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 4-[4-[4-chlorophenyl)-1,2,3,6-tetrahydropyridin-1-yl]butylamine | 7.18 g | ClC1=CC=C(C=C1)C=1CCN(CC1)CCCCN | C15H21ClN2
